US05668291
2,2'-Dithiobis[N-(3-bromophenyl)benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and 3-bromoaniline (1.98 g, 11.6 mmol) in 16 mL of pyridine. The crude product was recrystallized from ethyl acetate-hexanes to yield 1.99 g of the title compound, mp 194°-196° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 3-bromoaniline | 11.6 mmol, 1.98 g | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 16 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-(3-bromophenyl)benzamide] | 1.99 g | BrC=1C=C(C=CC1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC(=CC=C2)Br)C=CC=C1)=O | C26H18Br2N2O2S2
